US06887896B1
(2E)-2-Fluoro-3-(4,4-dimethyl-6-(cyclopropyl)methoxy-1-isopropyl-3,4 dihydronaphthalen-7-yl)2-butenol (Compound A-54)
As described in General Procedure G-1, ethyl (2E)-2-fluoro-3-(4,4-dimethyl-6(cyclopropyl)methoxy-1-iso-propyl-3,4-dihydronaphthalen-7-yl)-2-butenoate (Compound A-45, 0.025 g, 0.062 mmol) and diisobutylaluminum hydride (1.0 M in hexanes, 0.50 mL, 0.50 mmol) were reacted in THF (0.5 mL) to produce the title compound as an oil.

reactant | ethyl (2E)-2-fluoro-3-(4,4-dimethyl-6(cyclopropyl)methoxy-1-iso-propyl-3,4-dihydronaphthalen-7-yl)-2-butenoate | 0.062 mmol, 0.025 g | F\C(\C(=O)OCC)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)C)(C)C)OCC1CC1 | C25H33FO3
reactant | diisobutylaluminum hydride | 0.50 mmol, 1.0 M, 0.50 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (2E)-2-Fluoro-3-(4,4-dimethyl-6-(cyclopropyl)methoxy-1-isopropyl-3,4 dihydronaphthalen-7-yl)2-butenol | F\C(\CO)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)C)(C)C)OCC1CC1 | C23H31FO2
